US04960766
Conc. hydrochloric acid (4.09 g) was added to a solution of benzhydryl 7β-tert-butoxycarbonylamino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate iodide (27 g) in formic acid (108 ml), and stirred at ambient temperature for 2.5 hours. The reaction mixture was added to a mixture of acetone (720 ml) and ethyl acetate (1440 ml). The precipitates were collected by filtration and successively washed with ethyl acetate to give 7β-amino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate hydrochloride hydroiodide (15.3 g).

reactant | hydrochloric acid | 4.09 g | Cl | ClH
reactant | benzhydryl 7β-tert-butoxycarbonylamino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate iodide | 27 g | [I-].C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | acetone | 720 ml | CC(=O)C | C3H6O
reactant | ethyl acetate | 1440 ml | C(C)(=O)OCC | C4H8O2
solvent | formic acid | 108 ml | C(=O)O | CH2O2
product | 7β-amino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate hydrochloride hydroiodide | 15.3 g | I.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O | InChI=1S/C12H14N4O3S.ClH.HI/c1-14-3-2-4-15(14)5-7-6-20-11-8(13)10(17)16(11)9(7)12(18)19;;/h2-4,8,11H,5-6,13H2,1H3;2*1H/t8-,11-;;/m1../s1
